US07109354B2
b) 3-Bromo-4-fluoro-benzenesulfonyl chloride
Concentrated HCl (1.93 mL, 23.16 mmol) was added to a solution of 3-bromo-4-fluoro-phenylamine ((Example 265: part a) 2.2 g, 11.58 mmol) in 18 mL of 2:1 DCM/MeOH. A precipitate appeared and another 9 mL of 2:1 DCM/MeOH was added. The solution was cooled to −5° C. and tert-butylnitrate (2.71 mL, 23.16 mmol) was added dropwise over 8 min. After stirring for 15 min, sulfur dioxide (˜5 mL) was condensed into the reaction, followed by addition of copper (II) chloride (592 mg, 3.47 mmol) (gas evolution). The solvent was removed in vacuo and the residue was purified by SiO2 flash column chromatography to yield the title compound (1.9 g, 59%). 1H-NMR (CDCl3): δ 8.31 (dd, 1H, J=2.3, 5.8 Hz), 8.04 (ddd, 1H, J=2.6, 4.1, 8.8 Hz), 7.39 (dd, 1H, J=7.7, 8.8 Hz).

reactant | HCl | 23.16 mmol, 1.93 mL | Cl | ClH
reactant | 3-bromo-4-fluoro-phenylamine | BrC=1C=C(C=CC1F)N | C6H5BrFN
reactant | tert-butylnitrate | 23.16 mmol, 2.71 mL | C(C)(C)(C)O[N+](=O)[O-] | C4H9NO3
reactant | sulfur dioxide | ˜5 mL | S(=O)=O | O2S
solvent | DCM MeOH | 18 mL | C(Cl)Cl.CO
catalyst | copper (II) chloride | 3.47 mmol, 592 mg | [Cu](Cl)Cl
solvent | DCM MeOH | 9 mL | C(Cl)Cl.CO
product | 3-Bromo-4-fluoro-benzenesulfonyl chloride | 1.9 g, 59% | BrC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3BrClFO2S
